US04950674
1-[3-(4-Acetyl-2-methoxyphenoxy)propyl]-α,α-bis(4-fluorophenyl)-3-pyrrolidineacetonitrile
A mixture of α,α-bis(4-fluorophenyl)-3-pyrrolidineacetonitrile (5.13 g, 0.0172 mole), 1-[4-(3-chloropropoxy)-3-methoxyphenyl]ethanone (4.17 g, 0.0172 mole), and potassium carbonate (5.53 g, 0.04 mole) was heated overnight at reflux in 350 ml of 1-butanol containing potassium iodide (0.2 g). The butanol was removed by rotary evaporation. The residue obtained was dissolved in chloroform and extracted several times with water. The chloroform layer was dried over sodium sulfate, filtered, and solvent removed in vacuo to give a dark brown oil. The oil was subjected to flash chromatography on silica gel using ethyl acetate and 25% methanol-75% ethyl acetate for elution. Fractions of similar purity were combined and solvents removed. A dark brown oil was obtained and dried in vacuo 2 days at 80° C. to give 5.85 g (57.5% yield) of the title compound as a dark brown gum.

reactant | α,α-bis(4-fluorophenyl)-3-pyrrolidineacetonitrile | 0.0172 mole, 5.13 g | FC1=CC=C(C=C1)C(C#N)(C1CNCC1)C1=CC=C(C=C1)F | C18H16F2N2
reactant | 1-[4-(3-chloropropoxy)-3-methoxyphenyl]ethanone | 0.0172 mole, 4.17 g | ClCCCOC1=C(C=C(C=C1)C(C)=O)OC | C12H15ClO3
reactant | potassium carbonate | 0.04 mole, 5.53 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.2 g | [I-].[K+]
solvent | 1-butanol | 350 ml | C(CCC)O | C4H10O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[3-(4-Acetyl-2-methoxyphenoxy)propyl]-α,α-bis(4-fluorophenyl)-3-pyrrolidineacetonitrile | 5.85 g, 57.5% yield | C(C)(=O)C1=CC(=C(OCCCN2CC(CC2)C(C#N)(C2=CC=C(C=C2)F)C2=CC=C(C=C2)F)C=C1)OC | C30H30F2N2O3
